* Test of VCO: frequency versus control voltage
* 7 stage Ring-Osc. made of gain cells BSIM3
* P.-H. Hsieh, J. Maxey, C.-K. K. Yang, IEEE JSSC, Sept. 2009, pp. 2488 - 2495
* alternatively use d_osc code model
* measure frequency of R.O. by fft 

.param vcc=3.3
.csparam simtime=500n

vdd dd 0 dc 'vcc'
vco cont 0 dc 2.5

* vco
* buf: analog out
* d_digout: digital out
* cont: analog control voltage
* dd: analog supply voltage
*.include vco_sub.cir
*xvco buf d_digout cont dd ro_vco
.include vco_sub_new.cir
xvco buf d_digout cont dd d_osc_vco 

.option noacct

.control
set xtrtol=2
set dt = $curplot
set curplot = new
set curplottitle = "Frequency versus voltage"
set freq_volt = $curplot $ store its name to 'freq_volt'
setplot $freq_volt
let vcovec=vector(5)
let foscvec=vector(5)
setplot $dt
alter vco 0.5
tran 0.1n $&simtime 0
let {$freq_volt}.vcovec[0]=v(cont)
linearize buf
fft buf
* start meas at freq > 0 to skip large dc part
meas sp fosc MAX_AT buf from=1e3 to=1e9
let {$freq_volt}.foscvec[0]=fosc
plot d_digout xlimit 140n 160n
reset
alter vco 1
tran 0.1n $&simtime 0
let {$freq_volt}.vcovec[1]=v(cont)
linearize buf
fft buf
meas sp fosc MAX_AT buf from=1e3 to=1e9
let {$freq_volt}.foscvec[1]=fosc
plot d_digout xlimit 140n 160n
reset
alter vco 1.5
tran 0.1n $&simtime 0
let {$freq_volt}.vcovec[2]=v(cont)
linearize buf
fft buf
meas sp fosc MAX_AT buf from=1e3 to=1e9
let {$freq_volt}.foscvec[2]=fosc
plot d_digout xlimit 140n 160n
reset
alter vco 2
tran 0.1n $&simtime 0
let {$freq_volt}.vcovec[3]=v(cont)
linearize buf
fft buf
meas sp fosc MAX_AT buf from=1e3 to=1e9
let {$freq_volt}.foscvec[3]=fosc
plot d_digout xlimit 140n 160n
reset
alter vco 2.5
tran 0.1n $&simtime 0
let {$freq_volt}.vcovec[4]=v(cont)
linearize buf
fft buf
meas sp fosc MAX_AT buf from=1e3 to=1e9
let {$freq_volt}.foscvec[4]=fosc
plot d_digout xlimit 140n 160n
plot tran1.buf tran3.buf tran5.buf tran7.buf tran9.buf xlimit 140n 160n
plot mag(sp2.buf) mag(sp4.buf) mag(sp6.buf) mag(sp8.buf) mag(sp10.buf) xlimit 100e6 1100e6
setplot $freq_volt
settype frequency foscvec
settype voltage vcovec
plot foscvec vs vcovec
print vcovec foscvec
rusage
.endc

*model = bsim3v3
*Berkeley Spice Compatibility 
* Lmin= .35 Lmax= 20 Wmin= .6 Wmax= 20
.model N1 NMOS
*+version = 3.2.4
+version = 3.3.0
+Level=        8 
+Tnom=27.0
+Nch= 2.498E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=9.36e-8 Wint=1.47e-7
+Vth0= .6322    K1= .756  K2= -3.83e-2  K3= -2.612 
+Dvt0= 2.812  Dvt1= 0.462  Dvt2=-9.17e-2 
+Nlx= 3.52291E-08  W0= 1.163e-6 
+K3b= 2.233 
+Vsat= 86301.58  Ua= 6.47e-9  Ub= 4.23e-18  Uc=-4.706281E-11 
+Rdsw= 650  U0= 388.3203 wr=1
+A0= .3496967 Ags=.1    B0=0.546    B1= 1   
+ Dwg = -6.0E-09 Dwb = -3.56E-09 Prwb = -.213
+Keta=-3.605872E-02  A1= 2.778747E-02  A2= .9 
+Voff=-6.735529E-02  NFactor= 1.139926  Cit= 1.622527E-04 
+Cdsc=-2.147181E-05   
+Cdscb= 0  Dvt0w =  0 Dvt1w =  0 Dvt2w =  0 
+ Cdscd =  0 Prwg =  0 
+Eta0= 1.0281729E-02  Etab=-5.042203E-03 
+Dsub= .31871233 
+Pclm= 1.114846  Pdiblc1= 2.45357E-03  Pdiblc2= 6.406289E-03 
+Drout= .31871233  Pscbe1= 5000000  Pscbe2= 5E-09 Pdiblcb = -.234
+Pvag= 0 delta=0.01
+ Wl =  0 Ww = -1.420242E-09 Wwl =  0 
+ Wln =  0 Wwn =  .2613948 Ll =  1.300902E-10 
+ Lw =  0 Lwl =  0 Lln =  .316394 
+ Lwn =  0
+kt1=-.3  kt2=-.051 
+At= 22400 
+Ute=-1.48 
+Ua1= 3.31E-10  Ub1= 2.61E-19 Uc1= -3.42e-10 
+Kt1l=0 Prt=764.3

.model P1 PMOS
*+version = 3.2.4
+version = 3.3.0
+Level=        8 
+Tnom=27.0
+Nch= 3.533024E+17  Tox=9E-09 Xj=1.00000E-07
+Lint=6.23e-8 Wint=1.22e-7
+Vth0=-.6732829 K1= .8362093  K2=-8.606622E-02  K3= 1.82 
+Dvt0= 1.903801  Dvt1= .5333922  Dvt2=-.1862677 
+Nlx= 1.28e-8  W0= 2.1e-6 
+K3b= -0.24 Prwg=-0.001 Prwb=-0.323 
+Vsat= 103503.2  Ua= 1.39995E-09  Ub= 1.e-19  Uc=-2.73e-11 
+ Rdsw= 460  U0= 138.7609 
+A0= .4716551 Ags=0.12 
+Keta=-1.871516E-03  A1= .3417965  A2= 0.83 
+Voff=-.074182  NFactor= 1.54389  Cit=-1.015667E-03 
+Cdsc= 8.937517E-04 
+Cdscb= 1.45e-4  Cdscd=1.04e-4
+ Dvt0w=0.232 Dvt1w=4.5e6 Dvt2w=-0.0023
+Eta0= 6.024776E-02  Etab=-4.64593E-03 
+Dsub= .23222404 
+Pclm= .989  Pdiblc1= 2.07418E-02  Pdiblc2= 1.33813E-3 
+Drout= .3222404  Pscbe1= 118000  Pscbe2= 1E-09 
+Pvag= 0 
+kt1= -0.25  kt2= -0.032 prt=64.5 
+At= 33000 
+Ute= -1.5 
+Ua1= 4.312e-9 Ub1= 6.65e-19  Uc1= 0 
+Kt1l=0

.end
